US08614226B2
A slurry of 115 mg (0.31 mmol) 2-(5-chloro-2-fluoro-phenyl)-4-(6-chloro-pyrazin-2-yl)-[1,8]naphthyridine, 99.3 mg (0.34 mmol) 1-(2-pyrrolidin-1-yl-ethyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole and 165 mg (0.62 mmol) tri-potassium-phosphate-trihydrate in 1 ml 1,2-dimethoxyethane was heated to 80° C. under nitrogen. Then 4.3 mg (0.006 mmol) bis-(triphenylphosphine)-palladium(II)-chloride and a drop of triethylamine were added. The reaction mixture was stirred for 18 hours at 80° C. The reaction mixture was cooled to room temperature and water was added. The resulting precipitate was filtered off, washed with water and chromatographed on a silica gel column with dichloromethane/methanol as eluent to yield 2-(5-chloro-2-fluoro-phenyl)-4-{6-[1-(2-pyrrolidin-1-yl-ethyl)-1H-pyrazol-4-yl]-pyrazin-2-yl}-[1,8]naphthyridine as grey crystals; HPLC-MS: 1.52 min, [M+H] 500.

reactant | 2-(5-chloro-2-fluoro-phenyl)-4-(6-chloro-pyrazin-2-yl)-[1,8]naphthyridine | 0.31 mmol, 115 mg | ClC=1C=CC(=C(C1)C1=NC2=NC=CC=C2C(=C1)C1=NC(=CN=C1)Cl)F | C18H9Cl2FN4
reactant | 1-(2-pyrrolidin-1-yl-ethyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 0.34 mmol, 99.3 mg | N1(CCCC1)CCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H26BN3O2
reactant | tri-potassium-phosphate-trihydrate | 0.62 mmol, 165 mg | O.O.O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | 1,2-dimethoxyethane | 1 ml | COCCOC | C4H10O2
catalyst | bis-(triphenylphosphine)-palladium(II)-chloride | 0.006 mmol, 4.3 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | water | O | H2O
product | 2-(5-chloro-2-fluoro-phenyl)-4-{6-[1-(2-pyrrolidin-1-yl-ethyl)-1H-pyrazol-4-yl]-pyrazin-2-yl}-[1,8]naphthyridine | ClC=1C=CC(=C(C1)C1=NC2=NC=CC=C2C(=C1)C1=NC(=CN=C1)C=1C=NN(C1)CCN1CCCC1)F | C27H23ClFN7
